US03994937
5.0 g. of natural 17β-hydroxy-18-methyl-15α,16α-methylene-4-estren-3-one is allowed to stand at room temperature in 20 ml. of pyridine and 10 ml. of acetic anhydride for 18 hours. The mixture is then stirred into ice water, the thus-obtained precipitate is filtered off and dissolved in methylene chloride. The methylene chloride phase is washed successively with dilute hydrochloric acid, water, sodium bicarbonate solution, and water. After drying and evaporation, 5.5 g. of natural 17β-acetoxy-18-methyl-15α,16α-methylene-4-estren-3-one is obtained.

reactant | 17β-hydroxy-18-methyl-15α,16α-methylene-4-estren-3-one | O[C@@H]1[C@]2(CC)[C@@H]([C@@H]3[C@H]1C3)[C@@H]3CCC1=CC(CC[C@@H]1[C@H]3CC2)=O | C20H28O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 17β-acetoxy-18-methyl-15α,16α-methylene-4-estren-3-one | C(C)(=O)O[C@@H]1[C@]2(CC)[C@@H]([C@@H]3[C@H]1C3)[C@@H]3CCC1=CC(CC[C@@H]1[C@H]3CC2)=O | C22H30O3
